US09119868B2
Step 3: Methyl 2-bromo-5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)benzoate
A suspension of methyl 2-amino-5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)benzoate (1.6 g, 2.70 mmol) in acetonitrile (30 mL) and hydrogen bromide (25 mL, 2.70 mmol) was treated with aqueous sodium nitrite (0.205 g, 2.97 mmol) at 0° C. and the mixture was stirred for 30 min, copper(I) bromide (0.464 g, 3.24 mmol) was added in portions at the same temperature. It was allowed to warm up to room temperature and then heated to 55° C. overnight. The mixture was cooled down to room temperature and partitioned between EtOAc and water. The organic phase was washed with brine, dried over Na2SO4. Concentrated under reduced pressure, the residue was purified by flashing chromatography on silica gel eluted with 0-50% EtOAc in hexane to give the product (0.92 g, 55%) as a white foam. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.49 (q, J=4.23 Hz, 1H) 8.14 (s, 1H) 7.97 (dd, J=8.78, 5.46 Hz, 2H) 7.80 (d, J=2.93 Hz, 1H) 7.75 (d, J=8.78 Hz, 1H) 7.50 (dd, J=8.88, 2.83 Hz, 1H) 7.41 (t, J=8.88 Hz, 2H) 7.22 (s, 1H) 3.84 (s, 3H) 3.44 (s, 3H) 2.84 (d, J=4.68 Hz, 3H) 2.05-2.15 (m, 1H) 0.92-1.05 (br. s, 1H) 0.87 (br. s., 2H) 0.40 (br. s., 1H). LCMS (m/z, ES+)=617 (M+H+).

reactant | methyl 2-amino-5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)benzoate | 2.70 mmol, 1.6 g | NC1=C(C(=O)OC)C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C=C1C1CC1 | C28H26FN3O6S
reactant | hydrogen bromide | 2.70 mmol, 25 mL | Br | BrH
reactant | sodium nitrite | 2.97 mmol, 0.205 g | N(=O)[O-].[Na+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
catalyst | copper(I) bromide | 3.24 mmol, 0.464 g | [Cu]Br
product | Methyl 2-bromo-5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)benzoate | 0.92 g, 55% | BrC1=C(C(=O)OC)C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C=C1C1CC1 | C28H24BrFN2O6S
